### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): define extremalNumber

### PR DESCRIPTION
**Pull request by mitchell-horner**
Define the extremal number `extremalNumber n H` of a natural number `n` and a simple graph `H`: `extremalNumber n H` is the maximum number of edges in a `H`-free simple graph on `n` vertices, if `H` is contained in all simple graphs on `n` vertices, then this is `0`.

Also define the predicate that a simple graph is an extremal graph `IsExtremal` satisfying some predicate.

---

- [x] depends on: #20658

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mitchell-horner** [comment]
This is the first of a few PRs for a formalisation of the Erdős-Stone-Simonovits theorem. I created the new directory `Combinatorics/SimpleGraph/Extremal` as I intend to put a couple files here that really only pertain to extremal graph theory, e.g., Turán density.

**Comment by mitchell-horner** [comment]
The definitions in this PR do generalise a couple existing definitions, e.g., `IsTuranMaximal r` iff `IsExtremal (·.CliqueFree (r+1))` in `Turan.lean`. If this PR is successful it might be worth rewriting bits of `Turan.lean` using these common definitions, e.g.,
```
theorem extremalNumber_completeGraph
    (β α : Type*) [Fintype β] [DecidableEq β] [Fintype α] [Nontrivial α] :
    extremalNumber β (completeGraph α) =
      (turanGraph (Fintype.card β) (Fintype.card α-1)).edgeFinset.card := sorry
```
```
theorem card_edgeFinset_eq_extremalNumber_completeGraph_iff_iso_turanGraph
    {β: Type*} [Fintype β] (G : SimpleGraph β) [DecidableRel G.Adj]
    (α : Type*) [Fintype α] [Nontrivial α] :
    (completeGraph α).Free G ∧
        G.edgeFinset.card = extremalNumber β (completeGraph α)
      ↔ Nonempty (G ≃g turanGraph (Fintype.card β) (Fintype.card α-1)) := sorry
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,359 @@
...
+
+* `SimpleGraph.IsIsoSubgraph` is the relation that `B` contains a copy of `A`, that
+  is, `A` is an isomorphic subgraph of `B`, that is, the type of subgraph isomorphisms from `A` to
+  `B` is nonempty.
+
+  This is similar to `SimpleGraph.IsSubgraph` except that the simple graphs here need not have the
+  same underlying vertex type.
+
+* `SimpleGraph.Free` is the predicate that `B` is `A`-free, that is, `B` does not contain a copy of
+  `A`. This is the negation of `SimpleGraph.IsIsoSubgraph` implemented for convenience.
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:35]: Please move all these parts to a separate file; they don't need to be in a file about extremal properties.

Also, consider separating them into a smaller PR. I would happily merge that one, but don't personally have time/inclination to think about the `extremalNumber` part.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:35]: I've put them in `Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean`.

See #20658.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,153 @@
...
+
+section ExtremalNumber
+
+open Classical in
+/-- The extremal number of a finite type `β` and a simple graph `A` is the the maximum number of
+edges in a `A`-free simple graph on the vertex type `β`.
+
+If `A` is contained in all simple graphs on the vertex type `β`, then this is `0`. -/
+noncomputable def extremalNumber (β : Type*) [Fintype β] (A : SimpleGraph α) : ℕ :=
+  sup { B : SimpleGraph β | A.Free B } (#·.edgeFinset)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:42]: Why take an arbitrary fintype instead of one of the canonical ones?
```suggestion
noncomputable def extremalNumber (n : ℕ) (A : SimpleGraph α) : ℕ :=
  sup { B : SimpleGraph (Fin n) | A.Free B } (#·.edgeFinset)
```

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:42]: > Why take an arbitrary fintype instead of one of the canonical ones?

It is less hassle to have the supremum over the fintype of the graph you are looking at. Tl;dr: In golfing my proof of Erdős-Stone-Simonovits I got rid of _a lot_ of "useless" code with this (not just what is mentioned below).

Say I have a simple graph over an arbitrary fintype `G : SimpleGraph V` such that `h : G.CliqueFree (r+1)` and I want to reason that `#G.edgeFinset ≤ #(turanGraph (card V) r).edgeFinset`.

If I have `h_turan {V} : extremalNumber V ⊤ = #(turanGraph (card V) r).edgeFinset`, then this proof is something like `rw [←h_turan]; exact le_extremalNumber (top_free_iff_cliqueFree.mpr h)`. There is no point here that requires isomorphisms to simple graphs over one of the canonical fintypes nor any reasoning that everything true of the original graph is true of the isomorphic graph (no "useless" code).

Say I have `h_turan : extremalNumber n ⊤ = #(turanGraph n r).edgeFinset` and the supremum is over `Fin n` instead. 
- If I'm nice, I encapsulate this and `le_extremal` (and alike lemmas/theorems) use `G.overFin hc` and `(G.overFinIso hc).card_edgeFinset_eq` to prove `#G.edgeFinset ≤ extremalNumber (card V) H` (I write the "useless" code). 
- If I'm not nice, then `le_extremal` only applies to `G : SimpleGraph (Fin n)` and proves `#G.edgeFinset ≤ extremalNumber n H`; I push the responsibility onto the one with the simple graph over an arbitrary fintype (they write the "useless" code).

@YaelDillies Is taking an arbitrary fintype a problem here? What are your thoughts? (I think of it as instead of a graph $$G$$ with $$v(G) = n$$ vertices, we have a graph on a finite vertex type `G : SimpleGraph V`; likewise instead of $$\text{ex}(n, H)$$ we might have `extremalNumber V H`.)

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:42]: I agree with Yaël, and that you should make the version for natural numbers together with the API which allows it to be used for arbitrary fintypes that you describe. The broader reason why it's good to be concrete here is that it makes the definition of this function not have a useless universe variable, which is important when you start quantifying over n, or doing natural number computations on it. (This is what we do for Roth numbers, and what I did for Ramsey numbers and a bunch of other combinatorial quantities defined in this way, for instance)

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:42]: > The broader reason why it's good to be concrete here is that it makes the definition of this function not have a useless universe variable, which is important when you start quantifying over n, or doing natural number computations on it. (This is what we do for Roth numbers, and what I did for Ramsey numbers and a bunch of other combinatorial quantities defined in this way, for instance)


@b-mehta I see I see. Thanks for the explanation. :grin: 

I'll push these changes (in a couple days, bit busy).

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: @b-mehta I've allowed for arbitrary fintypes using
```
theorem extremalNumber_eq_sup_overFin {n : ℕ} [Fintype V] (hc : card V = n) :
    extremalNumber n H = sup { G : SimpleGraph V | H.Free G } (#·.edgeFinset) := sorry
```
that just adapts the definition over `Fin n` to the previous definition over `V`.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 3]
```diff
@@ -173,9 +173,9 @@ lemma IsContained.mono_left {A' : SimpleGraph α} (h_sub : A ≤ A') (h_isub : A
 
 alias IsContained.trans_le' := IsContained.mono_left
 
-/-- If `A ≃g B`, then `A` is contained in `C` if and only if `B` is contained in `C`. -/
-theorem isContained_congr (e : A ≃g B) : A ⊑ C ↔ B ⊑ C :=
-  ⟨.trans ⟨e.symm.toCopy⟩, .trans ⟨e.toCopy⟩⟩
+/-- If `A ≃g H` and `B ≃g G` then `A` is contained in `B` if and only if `H` is contained in `G`. -/
+theorem isContained_congr (e₁ : A ≃g H) (e₂ : B ≃g G) : A ⊑ B ↔ H ⊑ G :=
+  ⟨.trans' ⟨e₂.toCopy⟩ ∘ .trans ⟨e₁.symm.toCopy⟩, .trans' ⟨e₂.symm.toCopy⟩ ∘ .trans ⟨e₁.toCopy⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:178]: What about
```suggestion
/-- If `A ≃g H` and `B ≃g G` then `A` is contained in `B` if and only if `H` is contained in `G`. -/
theorem isContained_congr (eH : H\_1 ≃g H\_2) (eG : G\_1 ≃g G\_2) : H\_1 ⊑ G\_1 ↔ H\_2 ⊑ G\_2 :=
  ⟨.trans' ⟨eG.toCopy⟩ ∘ .trans ⟨eH.symm.toCopy⟩, .trans' ⟨eG.symm.toCopy⟩ ∘ .trans ⟨eH.toCopy⟩⟩
```
Sorry, can't unicode

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 4]
```diff
@@ -217,8 +217,9 @@ abbrev Free (A : SimpleGraph α) (B : SimpleGraph β) := ¬A ⊑ B
 
 lemma not_free : ¬A.Free B ↔ A ⊑ B := not_not
 
-/-- If `A ≃g B`, then `C` is `A`-free if and only if `C` is `B`-free. -/
-theorem free_congr (e : A ≃g B) : A.Free C ↔ B.Free C := (isContained_congr e).not
+/-- If `A ≃g H` and `B ≃g G` then `B` is `A`-free if and only if `G` is `H`-free. -/
+theorem free_congr (e₁ : A ≃g H) (e₂ : B ≃g G) : A.Free B ↔ H.Free G :=
+  (isContained_congr e₁ e₂).not
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:222]: Same here

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,167 @@
...
+
+If `H` is contained in all simple graphs on `n` vertices, then this is `0`. -/
+noncomputable def extremalNumber (n : ℕ) {W : Type*} (H : SimpleGraph W) : ℕ :=
+  sup { G : SimpleGraph (Fin n) | H.Free G } (#·.edgeFinset)
+
+variable {n : ℕ} {V W : Type*} {G : SimpleGraph V} {H : SimpleGraph W}
+
+open Classical in
+theorem extremalNumber_eq_sup_overFin {n : ℕ} [Fintype V] (hc : card V = n) :
+    extremalNumber n H = sup { G : SimpleGraph V | H.Free G } (#·.edgeFinset) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:45]: It's precisely not a sup over `Fin n`
```suggestion
theorem extremalNumber_of_fintypeCard_eq {n : ℕ} [Fintype V] (hc : card V = n) :
    extremalNumber n H = sup { G : SimpleGraph V | H.Free G } (#·.edgeFinset) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,167 @@
...
+  replace h' : G' ∈ univ.filter (H.Free ·) := by
+    rw [mem_filter, ← free_congr Iso.refl (Iso.map e G)]
+    simpa using h
+  rw [Iso.card_edgeFinset_eq (Iso.map e G)]
+  convert @le_sup _ _ _ _ { G | H.Free G } (#·.edgeFinset) G' h'
+
+variable [Fintype V] [DecidableRel G.Adj]
+
+/-- If `G` is `H`-free, then `G` has at most `extremalNumber (card V) H` edges. -/
+theorem le_extremalNumber (h : H.Free G) : #G.edgeFinset ≤ extremalNumber (card V) H := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:64]:
```suggestion
theorem card_edgeFinset_le_extremalNumber (h : H.Free G) : #G.edgeFinset ≤ extremalNumber (card V) H := by
```
maybe? Even better might be to have an `abbrev` for `#G.edgeFinset`. It's a very common idiom of course

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,167 @@
...
+  rw [extremalNumber_eq_sup_overFin rfl]
+  convert @le_sup _ _ _ _ { G | H.Free G } (#·.edgeFinset) G (by simpa using h)
+
+/-- If `G` has more than `extremalNumber (card V) H` edges, then `G` contains a copy of `H`. -/
+theorem extremalNumber_lt (h : extremalNumber (card V) H < #G.edgeFinset) : H ⊑ G := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:69]:
```suggestion
theorem Free.of_extremalNumber_lt_card_edgeFinset (h : extremalNumber (card V) H < #G.edgeFinset) : H ⊑ G := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,167 @@
...
+
+@[inherit_doc lt_extremalNumber_iff]
+theorem lt_extremalNumber_iff_of_nonneg (H : SimpleGraph W) {x : R} (h : 0 ≤ x) :
+    x < extremalNumber (card V) H ↔
+      ∃ G : SimpleGraph V, ∃ _ : DecidableRel G.Adj, H.Free G ∧ x < #G.edgeFinset := by
+  simp_rw [← Nat.floor_lt h]
+  exact lt_extremalNumber_iff H ⌊x⌋₊
+
+/-- If `H` contains a copy of `H'`, then `extremalNumber n H` is at most `extremalNumber n H`. -/
+theorem extremalNumber_of_isContained {W' : Type*} {H' : SimpleGraph W'} (h : H' ⊑ H) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:106]:
```suggestion
theorem IsContained.extremalNumber_le_card_edgeFinset {W' : Type*} {H' : SimpleGraph W'} (h : H' ⊑ H) :
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,167 @@
...
+    extremalNumber n H' ≤ extremalNumber n H := by
+  rw [← Fintype.card_fin n, extremalNumber_le_iff]
+  intro _ _ h'
+  contrapose! h'
+  rw [not_not]
+  exact h.trans (extremalNumber_lt h')
+
+/-- If `H₁ ≃g H₂`, then `extremalNumber n H₁` equals `extremalNumber n H₂`. -/
+theorem extremalNumber_congr {W₁ W₂ : Type*} {H₁ : SimpleGraph W₁} {H₂ : SimpleGraph W₂}
+    (e : H₁ ≃g H₂) : extremalNumber n H₁ = extremalNumber n H₂ := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:116]:
```suggestion
@[congr]
theorem extremalNumber_congr {W₁ W₂ : Type*} {H₁ : SimpleGraph W₁} {H₂ : SimpleGraph W₂} (hmn : m = n)
    (e : H₁ ≃g H₂) : extremalNumber m H₁ = extremalNumber n H₂ := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,167 @@
...
+end ExtremalNumber
+
+section IsExtremal
+
+variable {n : ℕ} {V W : Type*} {G : SimpleGraph V} {H : SimpleGraph W}
+
+/-- `G` is an extremal graph satisfying `p` if `G` has the maximum number of edges of any simple
+graph satisfying `p`. -/
+def IsExtremal [Fintype V] (G : SimpleGraph V) [DecidableRel G.Adj] (p : SimpleGraph V → Prop) :=
+  p G ∧ ∀ (H : SimpleGraph V) [DecidableRel H.Adj], p H → #H.edgeFinset ≤ #G.edgeFinset
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:138]: @apnelson1, any chance we can have `MaximalWrt` as a variant of `Maximal`?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 5 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:45]: Yeah, this is a way better name. I didn't know what to call it.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 7 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:69]: `IsContained.of_extremalNumber_lt_card_edgeFinset`. :+1:

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 8 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:106]: The statement is `H' ⊑ H → extremalNumber n H' ≤ extremalNumber n H`. I don't think you meant `..._le_card_edgeFinset`.

What about `IsContained.extremalNumber_le`?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 10 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: @YaelDillies its the `[DecidableRel H.Adj]` that is the problem; this def just generalizes the existing `IsTuranMaximal`.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: Then certainly we should have a version of `#H.edgeFinset` that doesn't require `DecidableRel H.Adj`!

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: It should only require `Fintype H.edgeSet`, no decidability assumption...

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 11]
```diff
@@ -173,9 +173,12 @@ lemma IsContained.mono_left {A' : SimpleGraph α} (h_sub : A ≤ A') (h_isub : A
 
 alias IsContained.trans_le' := IsContained.mono_left
 
-/-- If `A ≃g B`, then `A` is contained in `C` if and only if `B` is contained in `C`. -/
-theorem isContained_congr (e : A ≃g B) : A ⊑ C ↔ B ⊑ C :=
-  ⟨.trans ⟨e.symm.toCopy⟩, .trans ⟨e.toCopy⟩⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:178]: Can we keep this one around (proved as a special case of the new one), called `isContained_congr_left`, and also have the right version? It could also be nice to have dot notation for the single-implication versions (which is eg common through the topology library)

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 12]
```diff
@@ -217,8 +220,11 @@ abbrev Free (A : SimpleGraph α) (B : SimpleGraph β) := ¬A ⊑ B
 
 lemma not_free : ¬A.Free B ↔ A ⊑ B := not_not
 
-/-- If `A ≃g B`, then `C` is `A`-free if and only if `C` is `B`-free. -/
-theorem free_congr (e : A ≃g B) : A.Free C ↔ B.Free C := (isContained_congr e).not
+/-- If `A ≃g C` and `B ≃g D` then `B` is `A`-free if and only if `D` is `C`-free. -/
+theorem free_congr {W₁ W₂ V₁ V₂ : Type*} {H₁ : SimpleGraph W₁} {H₂ : SimpleGraph W₂}
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:224]: as before!

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: The reason it does is that a general simple graph over a fintype doesn't necessarily have a decidable adjacency relation, meaning we can't cut out a `Fintype H.edgeSet` instance from the `Fintype (Sym2 V)` one

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,177 @@
...
+
+/-- If `G` has more than `extremalNumber (card V) H` edges, then `G` contains a copy of `H`. -/
+theorem IsContained.of_extremalNumber_lt_card_edgeFinset
+    (h : extremalNumber (card V) H < #G.edgeFinset) : H ⊑ G := by
+  contrapose! h
+  exact card_edgeFinset_le_extremalNumber h
+
+/-- `extremalNumber (card V) H` is at most `x` if and only if every `H`-free simple graph `G` has
+at most `x` edges. -/
+theorem extremalNumber_le_iff (H : SimpleGraph W) (x : ℕ) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:77]: nit: `x` feels like a weird letter to use here. Can we have `m`, since that usually denotes an edge count? Similarly below.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,177 @@
...
+    extremalNumber n H' ≤ extremalNumber n H := by
+  rw [← Fintype.card_fin n, extremalNumber_le_iff]
+  intro _ _ h'
+  contrapose! h'
+  rw [not_not]
+  exact h.trans (IsContained.of_extremalNumber_lt_card_edgeFinset h')
+
+/-- If `H₁ ≃g H₂`, then `extremalNumber n₁ H₁` equals `extremalNumber n₂ H₂`. -/
+@[congr]
+theorem extremalNumber_congr {n₁ n₂ : ℕ} {W₁ W₂ : Type*} {H₁ : SimpleGraph W₁}
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:118]: Can we have the `congr_right` version of this, where n is fixed, for ease of use in rewriting

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,177 @@
...
+end ExtremalNumber
+
+section IsExtremal
+
+variable {V W : Type*} [Fintype V] {G : SimpleGraph V} [DecidableRel G.Adj]
+
+/-- `G` is an extremal graph satisfying `p` if `G` has the maximum number of edges of any simple
+graph satisfying `p`. -/
+def IsExtremal (G : SimpleGraph V) [DecidableRel G.Adj] (p : SimpleGraph V → Prop) :=
+  p G ∧ ∀ (H : SimpleGraph V) [DecidableRel H.Adj], p H → #H.edgeFinset ≤ #G.edgeFinset
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:142]:
```suggestion
  p G ∧ ∀ (H : SimpleGraph V) [Fintype H.edgeSet], p H → #H.edgeFinset ≤ #G.edgeFinset
```
and similarly below

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 11 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:178]: > It could also be nice to have dot notation for the single-implication versions (which is eg common through the topology library)

I'm a little uninitiated. You mean `IsContained.congr_right` right?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 13 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:77]: I hold no allegiance to `x`. :grin:

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 11 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:178]: Yup, exactly!

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 15 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:142]: I'll change it everywhere in the file, including the `extremalNumber_le_iff`, `lt_extremalNumber_iff` theorems.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,183 @@
...
+end ExtremalNumber
+
+section IsExtremal
+
+variable {V W : Type*} {G : SimpleGraph V} [Fintype G.edgeSet]
+
+/-- `G` is an extremal graph satisfying `p` if `G` has the maximum number of edges of any simple
+graph satisfying `p`. -/
+def IsExtremal (G : SimpleGraph V) [Fintype G.edgeSet] (p : SimpleGraph V → Prop) :=
+  p G ∧ ∀ (H : SimpleGraph V) [Fintype H.edgeSet], p H → #H.edgeFinset ≤ #G.edgeFinset
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:146]: Ooh, I should've noticed this earlier, but I think this is the real important definition. To me it seems like `IsExtremal` should be the first thing in the file, and the reminder is the specialization to when `p` is the property of being H-free. It's even tempting to define extremal numbers with respect to any property, not just `p = H.Free`, but I'm content with that being a TODO for now - certainly the commonly studied case is the one you've given.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 17]
```diff
@@ -173,9 +173,18 @@ lemma IsContained.mono_left {A' : SimpleGraph α} (h_sub : A ≤ A') (h_isub : A
 
 alias IsContained.trans_le' := IsContained.mono_left
 
-/-- If `A ≃g B`, then `A` is contained in `C` if and only if `B` is contained in `C`. -/
-theorem isContained_congr (e : A ≃g B) : A ⊑ C ↔ B ⊑ C :=
-  ⟨.trans ⟨e.symm.toCopy⟩, .trans ⟨e.toCopy⟩⟩
+/-- If `H₁ ≃g H₂` and `G₁ ≃g G₂` then `H₁` is contained in `G₁` if and only if `H₂` is contained
+in `G₂`. -/
+theorem isContained_congr {W₁ W₂ V₁ V₂ : Type*} {H₁ : SimpleGraph W₁} {H₂ : SimpleGraph W₂}
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:178]: I did that originally, I'll just revert to that. :+1:

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 16 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: No I think this is a great idea, e.g., `isExtremal_free_iff` is true in general then. Nothing here needs to be in terms of `H.free`!

I don't mind `extremalNumber n H.free` either, its more self-documenting.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: I can't do it! :sweat_smile:

E.g., `extremalNumber n H = sup { G : SimpleGraph V | H.Free G } (#·.edgeFinset)` here the `H.Free` on the left-hand side in the definition of `extremalNumber` is not the `H.Free` on the right-hand side, its universe-polymorphism.

I'd need `extremalNumber` to take some kind of universal predicate 
```
variable (p.{u} : Π {W : Type u}, SimpleGraph W → Prop)
``` 
but you can't quantify over universe levels like this...

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,178 @@
...
+theorem exists_isExtremal_iff_exists (p : SimpleGraph V → Prop) :
+    (∃ G : SimpleGraph V, ∃ _ : DecidableRel G.Adj, G.IsExtremal p) ↔ ∃ G, p G := by
+  refine ⟨fun ⟨_, _, h⟩ ↦ ⟨_, h.1⟩, fun ⟨G, hp⟩ ↦ ?_⟩
+  obtain ⟨G', hp', h⟩ := by
+    apply exists_max_image { G | p G } (#·.edgeFinset)
+    use G, by simpa using hp
+  use G', inferInstanceAs (DecidableRel G'.Adj)
+  exact ⟨by simpa using hp', fun _ _ hp ↦ by convert h _ (by simpa using hp)⟩
+
+/-- If `H` has one edge, then exist an `H.Free` extremal graph. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:53]:
```suggestion
/-- If `H` has at least one edge, then there exists an extremal `H.Free` graph. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean (hunk 16 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean]: Hmm, I'm not quite sure I follow, I still think this should work, but let's leave this generalisation for the time being!

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,178 @@
...
+namespace SimpleGraph
+
+section IsExtremal
+
+variable {V : Type*} [Fintype V] {G : SimpleGraph V} [DecidableRel G.Adj]
+
+/-- `G` is an extremal graph satisfying `p` if `G` has the maximum number of edges of any simple
+graph satisfying `p`. -/
+def IsExtremal (G : SimpleGraph V) [DecidableRel G.Adj] (p : SimpleGraph V → Prop) :=
+  p G ∧ ∀ (G' : SimpleGraph V) [DecidableRel G'.Adj], p G' → #G'.edgeFinset ≤ #G.edgeFinset
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:38]: I might as well change this everywhere.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,178 @@
...
+end IsExtremal
+
+section ExtremalNumber
+
+open Classical in
+/-- The extremal number of a natural number `n` and a simple graph `H` is the the maximum number of
+edges in a `H`-free simple graph on `n` vertices.
+
+If `H` is contained in all simple graphs on `n` vertices, then this is `0`. -/
+noncomputable def extremalNumber (n : ℕ) {W : Type*} (H : SimpleGraph W) : ℕ :=
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:67]: I'm not a fan of such shortenings, e.g., `cliqueNum`, `indepNum`. I like full names to describe such things, e.g., `chromaticNumber`. 

I like the readability.

(@b-mehta tie-breaker?)

**Review by b-mehta — COMMENTED** [review]
Thank you!

bors merge

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,180 @@
+/-
+Copyright (c) 2025 Mitchell Horner. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mitchell Horner
+-/
+import Mathlib.Algebra.Order.Floor.Defs
+import Mathlib.Algebra.Order.Floor.Ring
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Basic.lean:7]:
```suggestion
```

**Comment by riccardobrasca** [comment]
Is this PR ready to be merged?

**Comment by b-mehta** [comment]
Oops, thanks for the ping.

bors merge
